US06492416B1
To a stirred solution of (2,2-dimethyl)-5-{3-fluoro-4-(methylthio)phenyl}-4-(3-fluorophenyl)-3(2H)-furanone (1.6 g) in 50 ml dichloromethane, which was prepared by a procedure similar to the procedure employed for Example 264, 1.25 g of m-chloroperoxybenzoic acid at 0° C. The reaction solution was stirred for one and half hours at the temperature, after which 30 ml 5% aqueous sodium bicarbonate was added and the solution was stirred for another 10 minutes. Then the reaction mixture was concentrated in vacuo, and the resulting residue was extracted with 50 ml water and dichloromethane (30 ml×3). The organic layer was concentrated in vacuo and was purified by column chromatography (hexane/ethylacetate=1:1) to give 1.6 g of 2,2-dimethyl-5-{3-fluoro-4-(methylsulfinyl)phenyl}-4-(3-fluorophenyl)-3(2H)-furanone as a solid. mp: 148-149° C. NMR: δ1.58 (s, 6H), 2.87 (s, 3H), 7.06 (m, 3H), 7.36(m, 1H), 7.42 (dd, J=10.5, 1.8 Hz, 1H), 7.66 (dd, J=8.4, 1.8 Hz, 1H), 7.87 (dd, J=8.1. 6.9 Hz, 1H). IR (cm−1): 1700, 1623, 1420, 1261, 1216, 1192, 1135, 1077.

reactant | (2,2-dimethyl)-5-{3-fluoro-4-(methylthio)phenyl}-4-(3-fluorophenyl)-3(2H)-furanone | 1.6 g | CC1(OC(=C(C1=O)C1=CC(=CC=C1)F)C1=CC(=C(C=C1)SC)F)C | C19H16F2O2S
reactant | m-chloroperoxybenzoic acid | 1.25 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,2-dimethyl-5-{3-fluoro-4-(methylsulfinyl)phenyl}-4-(3-fluorophenyl)-3(2H)-furanone | 1.6 g | CC1(OC(=C(C1=O)C1=CC(=CC=C1)F)C1=CC(=C(C=C1)S(=O)C)F)C | C19H16F2O3S
